US08183271B2
Methyl 4-[3-carboxy-4-(4-cyanophenyl)butyl]benzoate
A solution of 7.5 ml (53.6 mmol) of triethylamine and 1.5 ml (40.6 mmol) of formic acid in 170 ml of dioxane is added to a solution of 7.5 g (16.25 mmol) of diallyl 2-(4-cyanobenzyl)-2-[2-(4-methoxycarbonylphenyl)ethyl]malonate, 0.3 g (1.14 mmol) of triphenylphosphine and 70 mg of palladium acetate in 170 ml of dioxane at room temperature. The reaction mixture is then stirred at 100° C. for 2 hours. After conversion is complete, the reaction solution is cooled and the solvent is removed in vacuo. The residue is taken up in ethyl acetate and water and acidified with 1 N hydrochloric acid, and the organic phase is separated off. The aqueous phase is extracted three times more with ethyl acetate, and the organic phases are then combined, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solution is concentrated in vacuo. 5.48 g (89% of theory, 90% purity) of a colorless solid are obtained.

reactant | triethylamine | 53.6 mmol, 7.5 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 40.6 mmol, 1.5 ml | C(=O)O | CH2O2
reactant | diallyl 2-(4-cyanobenzyl)-2-[2-(4-methoxycarbonylphenyl)ethyl]malonate | 16.25 mmol, 7.5 g | C(#N)C1=CC=C(CC(C(=O)OCC=C)(C(=O)OCC=C)CCC2=CC=C(C=C2)C(=O)OC)C=C1 | C27H27NO6
reactant | triphenylphosphine | 1.14 mmol, 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 170 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 170 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 70 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 4-[3-carboxy-4-(4-cyanophenyl)butyl]benzoate | C(=O)(O)C(CCC1=CC=C(C(=O)OC)C=C1)CC1=CC=C(C=C1)C#N | C20H19NO4
